US04956359
3-(4-Chlorophenoxy)-1-azetidinecarboxamide
A solution of 5 g (0.02 mole) of 3-(4-chlorophenoxy)-1-azetidinecarbonyl chloride in 20 ml of tetrahydrofuran was stirred while 4 ml (0.06 mole) of 57% ammonium hydroxide was added all at once. After stirring for 18 hr, the reaction mixture was diluted with 200 ml of water and the solid which separated was collected by filtration, 10.5 g. Recrystallization from isopropanol yielded 2.4 g (52.9%) of gray crystalline powder, m.p. 187°-188° C.

reactant | 3-(4-chlorophenoxy)-1-azetidinecarbonyl chloride | 0.02 mole, 5 g | ClC1=CC=C(OC2CN(C2)C(=O)Cl)C=C1 | C10H9Cl2NO2
reactant | ammonium hydroxide | 0.06 mole, 4 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 3-(4-Chlorophenoxy)-1-azetidinecarboxamide | 2.4 g, 52.9% | ClC1=CC=C(OC2CN(C2)C(=O)N)C=C1 | C10H11ClN2O2
